US06043254
3.1 3-{(Z)-1-[(1-methyl-2-oxo-2,3-dihydro-1H-benzimidazol-5-yl)amino]-1-phenylmethylidene}-2-indolinone
Prepared from 1-acetyl-3-{1-ethoxy-1-phenylmethylidene}-2-indolinone and 3 equivalents of crude 5-amino-1-methyl-2-oxo-2,3-dihydro-1H-benzimidazole in DMF followed by treatment with 1N sodium hydroxide solution in MeOH.

reactant | 1-acetyl-3-{1-ethoxy-1-phenylmethylidene}-2-indolinone | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)OCC)=O | C19H17NO3
reactant | 5-amino-1-methyl-2-oxo-2,3-dihydro-1H-benzimidazole | 3 equivalents | NC1=CC2=C(N(C(N2)=O)C)C=C1 | C8H9N3O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 3-{(Z)-1-[(1-methyl-2-oxo-2,3-dihydro-1H-benzimidazol-5-yl)amino]-1-phenylmethylidene}-2-indolinone | CN1C(NC2=C1C=CC(=C2)N\C(\C2=CC=CC=C2)=C\2/C(NC1=CC=CC=C21)=O)=O | C23H18N4O2
